US09034880B2
Preparation of the title compound was carried out according to General Method 8. 4-Methylphenylhydrazine hydrochloride (2 g, 12.6 mmol), 1-(2-bromoethyl)pyrrolidine hydrobromide (8.1 g, 31.5 mmol), triethyl amine (17.5 ml, 126 mmol) and N-methyl-4-piperidone hydrochloride (1.87 g, 12.6 mmol) were combined in ethanol (15 ml) to obtain 180 mg of 2,3,4,5-tetrahydro-2,8-dimethyl-5-(2-(pyrrolidin-1-yl)ethyl)-1H-pyrido[4,3-b]indole after on purification on silica gel (230-400 mesh) chromatography eluting with acetone-hexane gradient. The free base was converted into its dioxalate salt by treatment of oxalic acid (2 equiv.) in anhydrous THF.

reactant | 4-Methylphenylhydrazine hydrochloride | 12.6 mmol, 2 g | Cl.CC1=CC=C(C=C1)NN
reactant | 1-(2-bromoethyl)pyrrolidine hydrobromide | 31.5 mmol, 8.1 g | Br.BrCCN1CCCC1
reactant | triethyl amine | 126 mmol, 17.5 ml | C(C)N(CC)CC | C6H15N
reactant | N-methyl-4-piperidone hydrochloride | 12.6 mmol, 1.87 g | Cl.CN1CCC(CC1)=O
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 2,3,4,5-tetrahydro-2,8-dimethyl-5-(2-(pyrrolidin-1-yl)ethyl)-1H-pyrido[4,3-b]indole | 180 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)CCN2CCCC2)CC1 | C19H27N3
